US06040309
Ethyl 6-bromomethyl-3-chlorobenzo[b]thiophene-2-carboxylate
Catalytic azobisisobutylnitrile (AIBN, 0.28 g) and N-bromosuccinimide (4.8 g, 26.8 mmol) were added to a solution of ethyl 3-chloro-6-methylbenzo[b]thiophene-2-carboxylate (Preparation 9, 6.5 g, 25.5 mmol) in tetrachloromethane (50 ml), under a nitrogen atmosphere. The mixture was heated to reflux for 5 hours, cooled, and then loaded onto a silica gel column. The product was eluted with a gradient mixture of dichloromethane and hexane (initially 30:70 increasing to 50:50, and then 70:30). The solvent was removed under reduced pressure to leave the title compound as a colourless solid (8.7 g)

reactant | N-bromosuccinimide | 26.8 mmol, 4.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 3-chloro-6-methylbenzo[b]thiophene-2-carboxylate | 25.5 mmol, 6.5 g | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)C | C12H11ClO2S
solvent | tetrachloromethane | 50 ml | ClC(Cl)(Cl)Cl | CCl4
product | Ethyl 6-bromomethyl-3-chlorobenzo[b]thiophene-2-carboxylate | 8.7 g | BrCC=1C=CC2=C(SC(=C2Cl)C(=O)OCC)C1 | C12H10BrClO2S
